US06852726B2
(3-Methanesulfonyl-6-methyl-indol-1-yl)-acetonitrile (0.4 g, 1.611 mmole) prepared from 6-methylindole as described in Steps 1-4 above, was added to ethylene diamine (4.3 ml, 438 mmole) in a reaction tube. A single drop of carbon disulfide was carefully added. The mixture was heated in a microwave reactor at 142° C. for 30 minutes. Upon cooling, the reaction mixture was poured into a mixture of ice and water, stirred 20 minutes and filtered. The colorless precipitate collected was washed with water (20 ml) and dried under vacuum at room temperature. The free base thus obtained (420 mg, 90% yield) was converted into the hydrochloride salt by first dissolving in methanol and then adding an excess of HCl in ethanol. The mixture was stripped to dryness and recrystallized from a mixture of ethyl acetate-methanol to afford 344 mg of 1-(4,5-dihydro-1H-imidazol-2-ylmethyl)-3-methanesulfonyl-6-methyl-1H-indole, mp >300° C. as the hydrochloride salt.

reactant | (3-Methanesulfonyl-6-methyl-indol-1-yl)-acetonitrile | 1.611 mmole, 0.4 g | CS(=O)(=O)C1=CN(C2=CC(=CC=C12)C)CC#N | C12H12N2O2S
reactant | 6-methylindole | CC1=CC=C2C=CNC2=C1 | C9H9N
reactant | ethylene diamine | 438 mmole, 4.3 ml | C(CN)N | C2H8N2
reactant | HCl | Cl | ClH
solvent | methanol | CO | CH4O
solvent | ethanol | C(C)O | C2H6O
solvent | water | O | H2O
solvent | carbon disulfide | C(=S)=S | CS2
product | 1-(4,5-dihydro-1H-imidazol-2-ylmethyl)-3-methanesulfonyl-6-methyl-1H-indole | 344 mg | N1C(=NCC1)CN1C=C(C2=CC=C(C=C12)C)S(=O)(=O)C | C14H17N3O2S
